US08334292B1
Step 1: Preparation of (R)-methyl 2-chloro-5-iodo-6-(tetrahydrofuran-3-yloxy)pyrimidine-4-carboxylate (1)
To a solution of (R)-(−)-3-hydroxy-tetrahydrofuran (0.214 g, 2.42 mmol) in anhydrous THF (10 mL) at 0° C. was added NaH (60% in mineral oil, 103 mg, 2.58 mmol). The mixture was stirred at 0° C. for 30 min, then methyl 2,6-dichloro-5-iodopyrimidine-4-carboxylate (0.539 g, 1.62 mmol) was added to the mixture at −10° C. The reaction mixture was stirred at the same temperature for 30 min, and then allow warm to r.t. for 4 h. The reaction was then diluted with EtOAc and acidified with 2 N HCl. The aqueous layer was extracted with EtOAc. The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in ether (8 mL) and MeOH (2 mL), and then trimethylsilyldiazomethane (2 M, 2 mL, 4 mmol) was added at 0° C. The reaction was stirred at r.t. for 1 h, and then quenched by 2 N HCl and concentrated in vacuo. The residue was purified by ISCO chromatography (24 g silica gel, 1-10% EtOAc in hexanes in 40 min) to give the title compound (0.140 g, 26%) as a colorless oil. 1H NMR (CDCl3, 500 MHz) δ 5.69-5.66 (m, 1H), 4.10 (dd, 1H), 4.05-3.92 (m, 6H), 2.38-2.30 (m, 1H), 2.24-2.18 (m, 1H).

reactant | (R)-(−)-3-hydroxy-tetrahydrofuran | 2.42 mmol, 0.214 g | O[C@H]1COCC1 | C4H8O2
reactant | NaH | 2.58 mmol, 103 mg | [H-].[Na+]
reactant | methyl 2,6-dichloro-5-iodopyrimidine-4-carboxylate | 1.62 mmol, 0.539 g | ClC1=NC(=C(C(=N1)C(=O)OC)I)Cl | C6H3Cl2IN2O2
reactant | HCl | 2 N | Cl | ClH
reactant | trimethylsilyldiazomethane | 4 mmol, 2 M, 2 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 2 mL | CO | CH4O
product | (R)-methyl 2-chloro-5-iodo-6-(tetrahydrofuran-3-yloxy)pyrimidine-4-carboxylate | 0.140 g, 26% | ClC1=NC(=C(C(=N1)C(=O)OC)I)O[C@H]1COCC1 | C10H10ClIN2O4
